US08134004B2
Step A12A: 6,8-difluoroquinoline-4-carbonitrile
A mixture of 4-chloro-6,8-difluoroquinoline (APOLLO) (1000 mg, 5.01 mmol), zinc cyanide (1180 mg, 10.0 mmol) and palladium (0) tetrakis(triphenylphosphine)(579 mg, 0.501 mmol) in dry DMF (15 ml) was treated at room temperature with stirring for 12 hours. Then, the reaction was quenched with saturated aqueous sodium bicarbonate solution and ethyl acetate. The organic layer was separated and the crude product was purified by column chromatography on silica gel (ca. 250 g) with hexane-ethyl acetate (3:1) to give the title compound (787 mg, yellow solid). 1H NMR (270 MHz, CDCl3) 5 ppm 7.37-7.50 (1H, m), 7.65-7.75 (1H, m), 7.83-7.90 (1H, m), 9.05-9.10 (1H, m).

reactant | 4-chloro-6,8-difluoroquinoline | 5.01 mmol, 1000 mg | ClC1=CC=NC2=C(C=C(C=C12)F)F | C9H4ClF2N
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 10.0 mmol, 1180 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.501 mmol, 579 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 6,8-difluoroquinoline-4-carbonitrile | 787 mg | FC=1C=C2C(=CC=NC2=C(C1)F)C#N | C10H4F2N2
